US08133909B2
(4-Ethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound (4-ethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 295.2 [M+H]+) was prepared from 1-bromo-4-ethyl-benzene instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 1-bromo-4-ethyl-benzene | BrC1=CC=C(C=C1)CC | C8H9Br
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | (4-ethyl-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | C(C)C1=CC=C(C=C1)NCCC1=NC=C(C=C1)C(F)(F)F | C16H17F3N2
